US07151115B2
(S)-1-Benzyl-3-(1-cyano-1,1-diphenylmethyl)pyrrolidine was dissolved in IPAc (approximately 1 g/10 mL) and the solution was mixed with an equal volume of 1N aqueous HCl. The resulting layers were separated and the aqueous layer was extracted with an equal volume of IPAc. The organic layers were combined, dried over sodium sulfate and filtered. The solvent was removed in vacuo to afford (S)-1-benzyl-3-(1-cyano-1,1-diphenylmethyl)pyrrolidine hydrochloride as a light yellow foamy solid. (Note: This hydrochloride salt can also be prepared during the work-up of Step B).

reactant | (S)-1-Benzyl-3-(1-cyano-1,1-diphenylmethyl)pyrrolidine | C(C1=CC=CC=C1)N1C[C@@H](CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C#N | C25H24N2
reactant | HCl | 1N | Cl | ClH
product | (S)-1-benzyl-3-(1-cyano-1,1-diphenylmethyl)pyrrolidine hydrochloride | Cl.C(C1=CC=CC=C1)N1C[C@@H](CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C#N | InChI=1S/C25H24N2.ClH/c26-20-25(22-12-6-2-7-13-22,23-14-8-3-9-15-23)24-16-17-27(19-24)18-21-10-4-1-5-11-21;/h1-15,24H,16-19H2;1H/t24-;/m1./s1
